US07368578B2
A mixture of 4-chloromethyl-2-(2-furyl)-5-methyl-1,3-oxazole (7.13 g), potassium carbonate (3.84 g), methyl 5-formyl-2-hydroxybenzoate (5.0 g) and N,N-dimethylformamide (100 mL) was stirred at 90° C. for 15 hrs. Water was poured into the reaction mixture, and the precipitated crystals were collected by filtration to give methyl 5-formyl-2-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}benzoate as pale-brown crystals (8.67 g, 91%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 121-122° C.

reactant | 4-chloromethyl-2-(2-furyl)-5-methyl-1,3-oxazole | 7.13 g | ClCC=1N=C(OC1C)C=1OC=CC1 | C9H8ClNO2
reactant | potassium carbonate | 3.84 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 5-formyl-2-hydroxybenzoate | 5.0 g | C(=O)C=1C=CC(=C(C(=O)OC)C1)O | C9H8O4
reactant | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | methyl 5-formyl-2-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}benzoate | 8.67 g, 91% | C(=O)C=1C=CC(=C(C(=O)OC)C1)OCC=1N=C(OC1C)C=1OC=CC1 | C18H15NO6
